US03947416
Preparation of Isatoic Anhydride
A 100 ml. flask was charged with 2.0 g. phthalamic acid suspended in 20 ml. dimethylformamide at room temperature. A 5.4 g. portion of lead tetra-acetate was added to the suspension, and the reaction mixture was held at room temperature for 40 minutes. The reaction mixture was poured into 30 ml. water. Isatoic anhydride was filtered from the water, recrystallized from dioxane, and dried in vacuo for 2 hours. The final yield of isatoic anhydride amounted to 1.07 g. tan solids, melting point 243°, and represented 54 percent of theory based on the phthalamic acid.

reactant | phthalamic acid | C(C=1C(C(=O)N)=CC=CC1)(=O)O | C8H7NO3
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | lead tetra-acetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
solvent | water | O | H2O
product | Isatoic Anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
